US05750531
Step 1: 2-Amino-4-hydroxycyclopenta[d]pyrimidine
A solution of 2-ethoxycarbonyl cyclopentanone (114 ml, 0.77mol) and N,N-dimethylformamide (40 ml) was added dropwise to a mixture solution of sodium methoxide(83.2 g, 0.44 mol) and N,N-dimethylformamide(80 ml), while maintaining the temperature of the reaction system below 0° C. A solution of guanidine HCl salt(81 g, 0.85 mol) and methanol(127 ml) was added to the above reaction mixture and then was heated to reflux for 14 hours. The reaction mixture was neutralized by conc. HCl and the resulting solid was filtered and dried under reduced pressure to give 20.69 g of titled compound.

reactant | 2-ethoxycarbonyl cyclopentanone | 0.77mol, 114 ml | C(C)OC(=O)C1C(CCC1)=O | C8H12O3
reactant | sodium methoxide | 0.44 mol, 83.2 g | C[O-].[Na+]
reactant | guanidine HCl salt | 0.85 mol, 81 g | Cl.NC(=N)N
reactant | HCl | Cl | ClH
solvent | methanol | 127 ml | CO | CH4O
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 2-Amino-4-hydroxycyclopenta[d]pyrimidine | 20.69 g, Yield: 18% | NC1=NC(=C2C(N1)=CC=C2)O | C7H7N3O
